US04346220
6.5 Parts by weight of 4-amino-2,3-dihydro-6-methyl-3-thiono-as-triazin-5(4H)-one is added to a solution of 2.3 parts by weight of sodium methoxide in 50 parts by volume of methanol. After a few minutes 5.2 parts by weight of benzylchloride is added and the resulting mixture is stirred over night at room temperature. The solvent is removed under vacuum and the residue is washed with water to give 4.5 parts of 4-amino-3-benzylthio-6-methyl-as-triazin-5(4H)-one.

reactant | 4-amino-2,3-dihydro-6-methyl-3-thiono-as-triazin-5(4H)-one | NN1C(NN=C(C1=O)C)=S | C4H6N4OS
reactant | sodium methoxide | C[O-].[Na+]
reactant | benzylchloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | CO | CH4O
product | 4-amino-3-benzylthio-6-methyl-as-triazin-5(4H)-one | NN1C(=NN=C(C1=O)C)SCC1=CC=CC=C1 | C11H12N4OS
